US04534979
7-(4-Hexyloxyphenyl)-5-Methyl-Hepta-2,4,6-Trienoic Acid
In a manner similar to Example 6, alkaline hydrolysis of methyl 7-(4-hexyloxyphenyl)-5-methyl-hepta-2,4,6-trienoate afforded, after trituration from ethyl acetate, the acid as yellow powder, m.p. 181°-185° C.

reactant | methyl 7-(4-hexyloxyphenyl)-5-methyl-hepta-2,4,6-trienoate | C(CCCCC)OC1=CC=C(C=C1)C=CC(=CC=CC(=O)OC)C | C21H28O3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-(4-Hexyloxyphenyl)-5-Methyl-Hepta-2,4,6-Trienoic Acid | C(CCCCC)OC1=CC=C(C=C1)C=CC(=CC=CC(=O)O)C | C20H26O3
